US07625880B2
To a 500 mL 3-neck round-bottom flask equipped with a magnetic stir-bar and internal thermometer was added Pd2(dba)3.HCCl3 (0.476 g, 0.46 mmole), triphenylphosphine (0.383 g, 1.5 mmol), and THF (100 mL). The resulting wine-red solution was stirred under a nitrogen atmosphere for 30 minutes. To the stirred solution was then added solid acetic acid 1-[2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinolin-7-yl]-allyl ester (4.0 g, 9.2 mmole) in a single portion. An aqueous solution of 4-phenyl-[1,4]azaphosphinane 4-oxide free-base (200 mL, 0.106 M) was next added to the stirring solution over 3 minutes via an addition funnel. The temperature of the reaction immediately rose from 24° C. to 29.5° C. and maintained this temperature for about 20 minutes. After 1 hour, the reaction mixture had cooled to room temperature and a yellow precipitate had formed. The precipitate was isolated by filtration and washed with water followed by diethyl ether. The filter cake was re-dissolved in methanol (150 mL) and cooled over an ice bath. To the chilled solution with rapid stirring was added anhydrous HCl (10 mL, 1.25 M in methanol). The solution was then poured into a flask containing diethyl ether (600 mL) with stirring. Pentane (100 mL) was added, followed by additional anhydrous HCl (20 mL, 1.25 M in methanol). The resulting solution was decanted, leaving crude product as a gum on the sides of the flask. This material was re-dissolved in methanol (100 mL). Into the stirred solution was poured diethyl ether, resulting in a yellow flocculent precipitate. This was recovered by filtration and washed with diethyl ether to give 2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-7-[3-(4-oxo-4-phenyl-4λ5-[1,4]azaphosphinan-1-yl)-propenyl]-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one HCl salt (2.9 g, 52%). 1H NMR (400 MHz, CD3OD) δ 7.96-7.89 (m, 2H), 7.89 (d, 1H, J=9.0 Hz), 7.73 (d, 1H, J=9.0 Hz), 7.71-7.65 (n, 1H), 7.66-7.61 (m, 2H), 7.51 (dd, 1H, J1=5.5 Hz, J2=8.6 Hz), 7.32 (d, 1H, J=15.7 Hz), 7.26 (dd, 1H, J1=3.1 Hz, J2=9.4 Hz), 7.16 (td, 1H, J1=3.1 Hz, J2=8.6 Hz), 6.56-6.48 (m, 1H), 4.26 (s, 3H), 4.19 (d, 2H, J=7.0 Hz), 4.2-3.8 (br m, 2H), 3.8-3.6 (br m, 2H), 3.0-2.9 (br m, 2H), 2.47 (s, 3H), 2.37 (s, 3H), 2.5-2.3 (br m, 2H); ESMS m/z 569.7 (MH+).

reactant | HCCl3 | 0.46 mmole, 0.476 g | C(Cl)(Cl)Cl | CHCl3
reactant | triphenylphosphine | 1.5 mmol, 0.383 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetic acid 1-[2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinolin-7-yl]-allyl ester | 9.2 mmole, 4.0 g | FC1=CC(=C(C=C1)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C(C=C)OC(C)=O)C)N1)C)C | C24H23FN4O3
reactant | 4-phenyl-[1,4]azaphosphinane 4-oxide | 0.106 M, 200 mL | C1(=CC=CC=C1)P1(CCNCC1)=O | C10H14NOP
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-7-[3-(4-oxo-4-phenyl-4λ5-[1,4]azaphosphinan-1-yl)-propenyl]-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one HCl salt | 2.9 g, 52% | Cl.FC1=CC(=C(C=C1)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C=CCN2CCP(CC2)(C2=CC=CC=C2)=O)C)N1)C)C | InChI=1S/C32H33FN5O2P.ClH/c1-21-20-23(33)11-13-26(21)35-32-36-28-14-12-25-22(2)27(34-31(39)29(25)30(28)37(32)3)10-7-15-38-16-18-41(40,19-17-38)24-8-5-4-6-9-24;/h4-14,20H,15-19H2,1-3H3,(H,34,39)(H,35,36);1H
